US08877782B2
a) Cyclopropanesulfonic acid [6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-pyridine-3-carbonyl]-amide
As described for example 233, 6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-nicotinic acid (128 mg, 0.41 mmol) was converted, using cyclopropanesulfonic acid amide instead of butane-1-sulfonic acid amide, to the title compound (96 mg, 56%) which was obtained as an off white solid. MS: m/e=412.1 [M−H]−.

reactant | 6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-nicotinic acid | 0.41 mmol, 128 mg | CC1=C(C(=NO1)C1=CC=CC=C1)COC1=NC=C(C(=O)O)C=C1 | C17H14N2O4
reactant | cyclopropanesulfonic acid amide | C1(CC1)S(=O)(=O)N | C3H7NO2S
product | Cyclopropanesulfonic acid [6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-pyridine-3-carbonyl]-amide | 96 mg, 56% | CC1=C(C(=NO1)C1=CC=CC=C1)COC1=CC=C(C=N1)C(=O)NS(=O)(=O)C1CC1 | C20H19N3O5S
